US05393788
b) N-[2-(3,4-Dibenzyloxyphenyl)ethyl]oxamide
A suspension of methyl N-[2-(3,4-dibenzyloxyphenyl)ethyl]oxamate (5.0 g, 11.9 mmol) in methanol (100 mL) contained in a Fischer-Porter pressure vessel under argon was cooled to -78° C. Ammonia (ca. 60 mL) was condensed into the vessel, the vessel was sealed and allowed to come to room temperature. The suspension was allowed to stir at room temperature under a pressure of approximately 60 psi for 17 h. The mixture was cooled to -78° C., the vessel was opened and the vigorously stirred suspension was allowed to come to room temperature under a stream of argon. After 1.5 h, the solvent was removed in vacuo and the solid was triturated with 20% methylene chloride/ether to provide a white solid (4.5 g, 93%): m.p. 187° C.

reactant | methyl N-[2-(3,4-dibenzyloxyphenyl)ethyl]oxamate | 11.9 mmol, 5.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CCNC(C(=O)OC)=O | C25H25NO5
reactant | Ammonia | ca. 60 mL | N | H3N
reactant | methanol | 100 mL | CO | CH4O
product | N-[2-(3,4-Dibenzyloxyphenyl)ethyl]oxamide | 4.5 g, 93% | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CCNC(=O)C(=O)N | C24H24N2O4
